US05681858
(iv) cis-3-(4-Fluorophenoxy)cyclobutanecarbaldehyde
To a solution of ethyl cis-3-(4-fluorophenoxy)cyclobutanecarboxylate (5.07 g, 21.3 mmol) in dry methylene chloride (100 ml) cooled to -78° C. was added dropwise diisobutylaluminum hydride (23.7 ml, 22.0 mmol, 0.93M in hexane) under an argon atmosphere. After completion of addition, the mixture was stirred at the same temperature for 0.5 h. Methanol (5 ml) was carefully added to the reaction mixture at -78° C. and the whole allowed to warm to room temperature over 1 h. 2N aqueous hydrochloric acid (200 ml) was added, the whole extracted with ethyl acetate (300 ml) and the combined extracts washed with brine (200 ml). The organic layer was dried (MgSO4) and concentrated in vacuo. Chromatographic purification of the residue {SiO2, 300 g; hexane/ethyl acetate (4:1)} provided 3.20 g (78%) of title compound as a colorless oil: 1H NMR δ9.73 (d, J=2.6 Hz, 1H), 7.03-6.91 (m, 2H), 6.80-6.70 (m, 2H), 4.72-4.59 (m, 1H), 2.97-2.83 (m, 1H), 2.75-2.61 (m, 2H), 2.48-2.33 (m, 2H).

reactant | ethyl cis-3-(4-fluorophenoxy)cyclobutanecarboxylate | 21.3 mmol, 5.07 g | FC1=CC=C(O[C@H]2C[C@H](C2)C(=O)OCC)C=C1 | C13H15FO3
reactant | diisobutylaluminum hydride | 22.0 mmol, 0.93M, 23.7 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 2N, 200 ml | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | cis-3-(4-Fluorophenoxy)cyclobutanecarbaldehyde | 3.20 g, 78% | FC1=CC=C(O[C@H]2C[C@H](C2)C=O)C=C1 | C11H11FO2
